US05717100
4-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H -IMIDAZOL-2-YL]-1-ETHYLPIPERIDINE
To a stirring suspension of 4-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]-1-acetylpiperidine (0.11 mmol,41.4 mg) in THF (1.0 mL) was added lithium alumininum hydride (0.14 mmol, 0.14 mL of a 1M solution in THF) and the reaction stirred at room temperature for 2 h. The reaction was then quenched with water (0.1 mL), diluted with ethyl acetate (25 mL), the suspension filtered, the filtrates dried over anhydrous sodium sulfate and the solvent evaporated under reduced pressure. The residue was triturated with diethyl ether to give 25 mg of the title compound as a white powder. mp=242°-244° C.

reactant | 4-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]-1-acetylpiperidine | 0.11 mmol, 41.4 mg | FC1=CC=C(C=C1)C1=C(N=C(N1)C1CCN(CC1)C(C)=O)C1=CC=NC=C1 | C21H21FN4O
reactant | lithium | [Li] | Li
reactant | hydride | [H-]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 4-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H -IMIDAZOL-2-YL]-1-ETHYLPIPERIDINE | 25 mg | FC1=CC=C(C=C1)C1=C(N=C(N1)C1CCN(CC1)CC)C1=CC=NC=C1 | C21H23FN4
